US04652554
To a solution of 1-(2-O-nitro-3,5-di-O-acetyl-β-D-arabinofuranosyl)-N4 -acetylcytosine (10 g., 24 mmol) in anhydrous methanol (425 ml) under an atmosphere of dry nitrogen was added 1.9N barium methoxide (5 ml., 9.5 meq) in methanol. The reaction mixture was stirred at room temperature under an inert atmosphere for one hour and was then neutralized with a cation exchange resin (90 g., Bio-Rex 70/H+, 100-200 mesh )in the presence of water (5 ml). The resin was separated by filtration and washed with methanol. The combined filtrate and washings were evaporated under reduced pressure to yield crude 1-(2-O-nitro-β-D-arabinofuranosyl)cytosine (6.60 g., 95%), which was crystallized from H2O to yield pure 1-(2-O-nitro-β-D-arabinofuranosyl)cytosine (5.97 g., 86%): m.p. 151.3°-152.7° C.;

reactant | 1-(2-O-nitro-3,5-di-O-acetyl-β-D-arabinofuranosyl)-N4 -acetylcytosine | 24 mmol, 10 g | [N+](=O)([O-])O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C(=O)N=C(NC(C)=O)C=C1 | C15H18N4O10
reactant | barium methoxide | 1.9N, 5 ml, 9.5 meq | C[O-].[Ba+2].C[O-]
reactant | water | 5 ml | O | H2O
solvent | methanol | 425 ml | CO | CH4O
product | 1-(2-O-nitro-β-D-arabinofuranosyl)cytosine | 5.97 g, 86% | [N+](=O)([O-])O[C@@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1 | C9H12N4O7
